US03989841
α-Methyl-α-hydroxyfluorene-2-acetic acid
A cooled solution of fluorene-2-glyoxylic acid (4.5 g) in ether (150 ml) is treated dropwise over a 45 minute period with Grignard reagent prepared from magnesium (2.1 g) and methyl iodide (6.5 ml) in ether (145 ml). The mixture is then stirred for 2 hours at room temperature and poured into ice water. The mixture is treated with 250 ml 50% acetic acid and finally acidified to pH 2.0 with 10% HCl. The ether layer is separated, and the aqueous extracted with additional ether. The combined ether extracts are washed with sodium chloride solution and water, dried (MgSO4) and evaporated to give the title compound (3.7 g, mp 164°-168°). Recrystallization from ethyl acetate-hexane raises the mp to 170°-171°, λKBr 3400 cm-1.

reactant | fluorene-2-glyoxylic acid | 4.5 g | C1=C(C=CC=2C3=CC=CC=C3CC12)C(C(=O)O)=O | C15H10O3
reactant | magnesium | 2.1 g | [Mg] | Mg
reactant | methyl iodide | 6.5 ml | CI | CH3I
reactant | HCl | Cl | ClH
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 145 ml | CCOCC | C4H10O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | α-Methyl-α-hydroxyfluorene-2-acetic acid | 3.7 g | CC(C(=O)O)(C1=CC=2CC3=CC=CC=C3C2C=C1)O | C16H14O3
